US09238631B2
d) Di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-{[5-(2-fluoroethoxy)pyridin-2-yl]methyl}hexanedioate
To a solution of 54 mg 1-fluoro-2-iodoethane (0.31 mmol) in N,N-dimethylformamide (10 mL) was subsequently added 101 mg potassium carbonate (0.73 mmol), followed by 100 mg of di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-[(5-hydroxypyridin-2-yl)methyl]hexanedioate (0.21 mmol), and the resulting mixture was stirred for 20 h at room temperature. The mixture was then partitioned between water and ethyl acetate, the aqueous layer was then extracted with ethyl acetate again. The combined organic layers were washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by preparative HPLC, method A to give 56 mg (approx. 90% purity, 46% purity adjusted yield) of the target compound.

reactant | 1-fluoro-2-iodoethane | 0.31 mmol, 54 mg | FCCI | C2H4FI
reactant | potassium carbonate | 0.73 mmol, 101 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-[(5-hydroxypyridin-2-yl)methyl]hexanedioate | 0.21 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC(C)(C)C)CCC(C(=O)OC(C)(C)C)CC1=NC=C(C=C1)O | C25H40N2O7
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-{[5-(2-fluoroethoxy)pyridin-2-yl]methyl}hexanedioate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC(C)(C)C)CCC(C(=O)OC(C)(C)C)CC1=NC=C(C=C1)OCCF | C27H43FN2O7
